US04022766
3,7-Dihydro-6-methyl-5-phenyl-pyrrolo[3,4-e][1,4]-diazepine-2-(1H)-one.
3-Benzoyl-1-methyl-4-(phthalimidoacetamido)pyrrole (38 g.) is reacted with 6 g. of anhydrous hydrazine in 300 ml. of methanol according to the procedure of the foregoing example. After evaporation of the solvent and refluxing the residue with concentrated hydrochloric acid, the reaction mixture is filtered and the filtrate is alkalinized with dilute sodium hydroxide. The precipitate is crystallized from methanol. Yield 19 g. The compound decomposes at 400° C. without melting.

reactant | 3-Benzoyl-1-methyl-4-(phthalimidoacetamido)pyrrole | 38 g | C(C1=CC=CC=C1)(=O)C1=CN(C=C1NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C | C22H17N3O4
reactant | hydrazine | NN | H4N2
reactant | methanol | CO | CH4O
product | 3,7-Dihydro-6-methyl-5-phenyl-pyrrolo[3,4-e][1,4]-diazepine-2-(1H)-one | CC=1NC=C2NC(CN=C(C21)C2=CC=CC=C2)=O | C14H13N3O
